US06884813B2
Step 2. Preparation of [3,5-difluoro-4-(tetrahydro-4-hydroxy-2H-thiopyran-4-yl)phenyl]carbamic acid, 1-methylethyl ester.
n-Butyllithium (2.5M in hexanes, 57.2 mL, 0.143 mol) was added dropwise with stirring at −78° C. to (3,5-difluoro-phenyl)-carbamic acid isopropyl ester (15.0 g, 0.07 mol) and N, N, N′, N′-tetramethylethylenediamine (21.04 mL, 0.139 mol) in THF (150 mL), and stirred for 20 min at this temperature. Tetrahydrothiopyran-4-one (8.50 g, 0.073 mol) dissolved in THF (10 mL) was then added dropwise at −78° C., stirred for 1 h, and then allowed to warm to room temperature. The reaction was stirred for another hour and then quenched with saturated aqueous ammonium chloride (100 mL). The reaction mixture was extracted with ethyl acetate, the extracts washed with brine, dried (MgSO4), and evaporated. The residue was purified by flash column chromatography (30% ethyl acetate/hexane) to give the title compound as white solid.

reactant | n-Butyllithium | 0.143 mol, 2.5M, 57.2 mL | C(CCC)[Li]
reactant | (3,5-difluoro-phenyl)-carbamic acid isopropyl ester | 0.07 mol, 15.0 g | C(C)(C)OC(NC1=CC(=CC(=C1)F)F)=O | C10H11F2NO2
reactant | N, N, N′, N′-tetramethylethylenediamine | 0.139 mol, 21.04 mL | CN(CCN(C)C)C | C6H16N2
reactant | Tetrahydrothiopyran-4-one | 0.073 mol, 8.50 g | S1CCC(CC1)=O | C5H8OS
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | [3,5-difluoro-4-(tetrahydro-4-hydroxy-2H-thiopyran-4-yl)phenyl]carbamic acid, 1-methylethyl ester | FC=1C=C(C=C(C1C1(CCSCC1)O)F)NC(OC(C)C)=O | C15H19F2NO3S
